* source PR1
R_R1         N13241 N11142  220k TC=0,0 
V_V1         N11142 0 15Vdc
R_R4         N11142 N18336  47k TC=0,0 
R_R5         N18310 N133930  8.2k TC=0,0 
Q_Q1         N17649 N18909 N13241 QBC856B 
Q_Q2         N17645 N18310 N13241 QBC856B 
Q_Q9         N17645 N17645 N18101 QBC846B 
Q_Q8         N17649 N17645 N39890 QBC846B 
R_R7         0 N18310  1k TC=0,0 
V_V2         N18902 0  AC 1
+SIN 0 1.02V 1k 0 0 0
R_R6         0 N18909  220k TC=0,0 
C_C1         N18909 N18902  100n  TC=0,0 
R_R8         N34803 N19228  150 TC=0,0 
C_C4         N19228 N18310  470p  TC=0,0 
Q_Q5         N18336 N17649 N18177 QBC846B 
Q_Q6         N11142 N18336 N24072 QBC846B 
R_R9         N24072 N22979  4.7k TC=0,0 
D_D1         N11142 N267001 D1N4148 
R_R10         N267001 0  1.5k TC=0,0 
R_R12         N133930 N19228  820 TC=0,0 
C_C5         N18336 N17649  10p  TC=0,0 
Q_Q11         N11142 N24072 N19228 QBC817-25 
Q_Q10         N22979 N24072 N19228 QBC807-25 
R_R13         0 N34803  22 TC=0,0 
R_R14         N22979 N39890  1.5k TC=0,0 
R_R15         N22979 N18101  1.5k TC=0,0 
R_R16         N22979 N18177  220 TC=0,0 
R_R11         N400851 N22979  1.5k TC=0,0 
D_D2         0 N400851 D1N4148 
V_V3         0 N22979 15Vdc
